US07115645B2
b) N,N-Dimethyl-N′-(5-methoxy-2-nitrophenyl)benzene-1,4-diamine
24.9 g of N,N-dimethyl-N′-(5-chloro-2-nitrophenyl)benzene-1,4-diamine was added to a solution that consists of 8 g of sodium in 200 ml of methanol, and the mixture was heated in an autoclave for 9 hours to 120° C. After cooling, crystalline product was suctioned out.

reactant | N,N-dimethyl-N′-(5-chloro-2-nitrophenyl)benzene-1,4-diamine | 24.9 g | CN(C1=CC=C(C=C1)NC1=C(C=CC(=C1)Cl)[N+](=O)[O-])C | C14H14ClN3O2
reactant | sodium | 8 g | [Na] | Na
reactant | methanol | 200 ml | CO | CH4O
product | N,N-Dimethyl-N′-(5-methoxy-2-nitrophenyl)benzene-1,4-diamine | CN(C1=CC=C(C=C1)NC1=C(C=CC(=C1)OC)[N+](=O)[O-])C | C15H17N3O3
